US05932571
Synthesis of 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.30 g), 48% hydriodic acid (10 mL), ethanol (10 mL), and diethyl ether (80 mL) and stir. After 30 minutes add diethyl ether, (800 mL) and continue to stir to give a solid. Collect the solid by filtration and dry in vacuo to give the title compound: mp; 156-163° C.

reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.30 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | hydriodic acid | 10 mL | I | HI
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethyl ether | 800 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
product | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C16H24N4O.HI/c1-2-21-13-12-20-15-7-4-3-6-14(15)18-16(20)19-10-5-8-17-9-11-19;/h3-4,6-7,17H,2,5,8-13H2,1H3;1H
